US09326987B2
6-Bromo-3-fluoro-4-nitro-1H-indazole
To a solution of 6-bromo-4-nitro-1H-indazole (5 g) in acetonitrile (50 ml) and acetic acid (10 ml) was added Selectfluor (9.39 g). The resulting mixture was heated to 100° C. and stirred for two days. The reaction mixture was concentrated under vacuum. The residue was dissolved in DCM and then filtered off. The sample was absorbed onto silica powder then solid loaded onto the companion where it was purified on a 120 g silica column using a 0-100% ethyl acetate:cyclohexane gradient. The appropriate fractions were combined and concentrated to yield the title compound as an orange solid, 2 g.

reactant | 6-bromo-4-nitro-1H-indazole | 5 g | BrC1=CC(=C2C=NNC2=C1)[N+](=O)[O-] | C7H4BrN3O2
reactant | Selectfluor | 9.39 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-Bromo-3-fluoro-4-nitro-1H-indazole | BrC1=CC(=C2C(=NNC2=C1)F)[N+](=O)[O-] | C7H3BrFN3O2
